US05643931
1,9-Bis[4-(hydroxyaminomethyl)phenoxy]nonane (1.07 g) was dissolved in 75 ml of tetrahydrofuran-dimethylformamide (4:1) and, in an atmosphere of argon and with ice-cooling, 0.75 ml of ethoxycarbonyl isocyanate was added dropwise to the solution. After 10 minutes of stirring, 1N sodium hydroxide aqueous solution was added dropwise to the reaction mixture with water-cooling, followed by 2 hours of stirring at room temperature. The solvent was evaporated under a reduced pressure, and the thus obtained residue was mixed with 1N hydrochloric acid and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride aqueous solution in that order and dried over anhydrous magnesium sulfate. Then, the solvent was evaporated under a reduced pressure. The resulting residue was subjected to silica gel column chromatography, and the thus obtained 0.78 g of crude product obtained from fractions of chloroform-methanol (40:1) elution was recrystallized from methanol to obtain 0.69 g of 1,9-bis[4-[(3,5-dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy]nonane.

reactant | 1,9-Bis[4-(hydroxyaminomethyl)phenoxy]nonane | 1.07 g | ONCC1=CC=C(OCCCCCCCCCOC2=CC=C(C=C2)CNO)C=C1 | C23H34N2O4
reactant | ethoxycarbonyl isocyanate | 0.75 ml | C(C)OC(=O)N=C=O | C4H5NO3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | water | O | H2O
reactant | tetrahydrofuran dimethylformamide | 75 ml | O1CCCC1.CN(C=O)C
product | 1,9-bis[4-[(3,5-dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy]nonane | 0.69 g | O=C1N(OC(N1)=O)CC1=CC=C(OCCCCCCCCCOC2=CC=C(C=C2)CN2OC(NC2=O)=O)C=C1 | C27H32N4O8
